US07135502B1
DEAD (0.118 g; 0.75 mmol), triphenylphosphine (0.196 g; 0.75 mmol) and 4-(2-hydroxyethyl)morpholine (61 μl; 0.5 mmol) were added to a solution of N-acetyl-colchicinol (0.178 g; 0.5 mmol) in dichloromethane (5 ml) under argon atmosphere. The mixture was stirred at ambient temperature for 6 hours. After evaporation the residue was purified by flash chromatography eluting with a gradient of 2–10% ethanol/dichloromethane to give N-[(5S)-3-(2-morpholinoethoxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide.

reactant | DEAD | 0.75 mmol, 0.118 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.75 mmol, 0.196 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)morpholine | 0.5 mmol, 61 μl | OCCN1CCOCC1 | C6H13NO2
reactant | N-acetyl-colchicinol | 0.5 mmol, 0.178 g | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[(5S)-3-(2-morpholinoethoxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | Yield: 37% | O1CCN(CC1)CCOC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C26H34N2O6
